US04272437
4. 1-(Methoxyethoxymethyl)-4-tritylthio-2 -azetidinone
To a suspension of tetrabutylammonium bromide (322 mg, 1 mmole) and potassium hydroxide (85%, 70 mg,1.1 mmole) in dichloromethane (10 ml) cooled to 5° was added with vigorous stirring 4-tritylthio-2-azetidinone (345 mg, 1 mmole) and methoxyethoxymethyl chloride (187 mg, 1.5 mmole). The mixture was stirred at room temperature for 2 h, the solvent was evaporated and the residue partitioned between water and ethyl acetate. The dried organic phase was concentrated to leave a viscous oil (415 mg). Purification by column chromatography on silica gel eluting with ether (5%)-dichloromethane gave the title compound (206 mg, 48%) as an oil. δ (ppm, CDCl3): 7.30 (15H, m, aromatics), 4.57 (2H, AB quartet, N-CH2O), 4.46 (1H, dd, H-4), 3.50 (4H, s, OCH2CH2O), 3.30 (3H, s, CH3), 2.75 (2H, m, H-3).

reactant | potassium hydroxide | 1.1 mmole, 70 mg | [OH-].[K+]
reactant | 4-tritylthio-2-azetidinone | 1 mmole, 345 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)SC1CC(N1)=O | C22H19NOS
reactant | methoxyethoxymethyl chloride | 1.5 mmole, 187 mg | COCCOCCl | C4H9ClO2
catalyst | tetrabutylammonium bromide | 1 mmole, 322 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-(Methoxyethoxymethyl)-4-tritylthio-2 -azetidinone | 415 mg | COCCOCN1C(CC1SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C26H27NO3S
